US07288657B2
Piperidine-4-carboxylic Acid Diethylamide
To a stirred solution of 1-tert-butoxycarbonylpiperidine-4-carboxylic acid (5 g, 22.0 mmol) in DMF (100 mL) was added diethyl amine (4.6 mL, 44 mmol), triethylamine (9.1 mL, 66.0 mmol), HOAt (22.0 mL, 0.5 M in DMF, 22.0 mmol) and finally EDCI (8.4 g, 44 mmol). This was allowed to stir for 14 hours at room temperature. The solvent was then removed under reduced pressure. The mixture was taken up in DCM (100 mL). The organic layer was then washed with water (100 mL), 1N HCl (100 mL), NaCl (sat.) (100 mL), dried over MgSO4 and then filtered. To the organic layer was added TFA (33 mL). The reaction was allowed to stir at room temperature for 2 hours. The solvent was then removed under reduced pressure. The mixture was taken up in DCM (100 mL). The organic layer was then washed with 1N NaOH (100 mL), water (100 mL), NaCl (sat.) (100 mL), dried over MgSO4 and then filtered. The solvent was removed under reduced pressure. The crude material was sufficiently pure to use without further purification. The title compound was obtained in 86% yield (3.5 g, 19.0 mmol).

reactant | 1-tert-butoxycarbonylpiperidine-4-carboxylic acid | 22.0 mmol, 5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
reactant | diethyl amine | 44 mmol, 4.6 mL | C(C)NCC | C4H11N
reactant | triethylamine | 66.0 mmol, 9.1 mL | C(C)N(CC)CC | C6H15N
reactant | HOAt | 22.0 mmol, 0.5 M, 22.0 mL | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDCI | 44 mmol, 8.4 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | Piperidine-4-carboxylic Acid Diethylamide | 86% yield | C(C)N(C(=O)C1CCNCC1)CC | C10H20N2O
